US07576074B2
Bromoacetonitrile (2.1 ml, 30.1 mmol) was added to a mixture of 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol (10.12 g; 30.1 mmol) and potassium carbonate (16.6 g; 120.1 mmol) in DMF (200 ml). The mixture was stirred at room temperature overnight. The solvent was removed under high vacuum and the residue was triturated with water, filtered, washed with a mixture of hexane and ether (1/1) and dried under vacuum to give {[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}acetonitrile (9.6 g; 91% yield). 1H NMR (400 MHz; DMSO-d6): 3.99 (s, 3H), 5.40 (s, 2H), 7.41 (s, 1H), 7.64 (d, 1H), 7.87 (dd, 1H), 7.90 (s, 1H), 8.23 (d, 1H), 8.57 (s, 1H), 9.69 (s, 1H); MS (EI) for C17H12Cl2N4O2: 375.06 (MH+).

reactant | Bromoacetonitrile | 30.1 mmol, 2.1 ml | BrCC#N | C2H2BrN
reactant | 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol | 30.1 mmol, 10.12 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)O | C15H11Cl2N3O2
reactant | potassium carbonate | 120.1 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | {[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}acetonitrile | 9.6 g, 91% yield | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC#N | C17H12Cl2N4O2
